US08557805B2
4-({6-[(2-Methoxyethoxy)methyl]pyridin-3-yl}oxy)-2-(tetrahydro-2H-pyran-4-yloxy)aniline
To a solution of 2-[(2-methoxyethoxy)methyl]-5-[4-nitro-3-(tetrahydro-2H-pyran-4-yloxy)phenoxy]pyridine (11.5 g) in ethanol (100 mL) and water (25 mL) were added iron powder (8 g) and calcium chloride (0.3 g), and the mixture was stirred with heating under reflux for 4 hr. The reaction mixture was cooled, and insoluble material was filtered off through celite. Water was added to the filtrate, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The obtained crude product was subjected to silica gel column chromatography (ethyl acetate:hexane=0:100 to 50:50, volume ratio) to give the title compound (7.84 g, yield 74%) as an orange oil.

reactant | 2-[(2-methoxyethoxy)methyl]-5-[4-nitro-3-(tetrahydro-2H-pyran-4-yloxy)phenoxy]pyridine | 11.5 g | COCCOCC1=NC=C(C=C1)OC1=CC(=C(C=C1)[N+](=O)[O-])OC1CCOCC1 | C20H24N2O7
reactant | calcium chloride | 0.3 g | [Cl-].[Ca+2].[Cl-]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hexane | CCCCCC | C6H14
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | water | 25 mL | O | H2O
catalyst | iron | 8 g | [Fe] | Fe
product | 4-({6-[(2-Methoxyethoxy)methyl]pyridin-3-yl}oxy)-2-(tetrahydro-2H-pyran-4-yloxy)aniline | 7.84 g, yield 74% | COCCOCC1=CC=C(C=N1)OC1=CC(=C(N)C=C1)OC1CCOCC1 | C20H26N2O5
